US07141669B2
Preparation of 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-ethyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one (3A-1)
A mixture of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-ethyl-2H-pyrazolo[4,3-d]pyrimidin-7-ol (I-3A-1a, 15 mg, 0.039 mmol), Cs2CO3 (52 mg, 0.16 mmol) and CF3CH2I (39 μl, 0.4 mmol) in DMF (1 ml) was stirred at 100° C. for 18 h. The reaction mixture was cooled to room temperature, quenched with saturated aqueous sodium chloride, and extracted with ethyl acetate (2×). The combined extracts were washed with saturated aqueous NaCl, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by radial chromatography (Chromatotron) using a 1 mm silica gel plate and a solvent gradient of 25% ethyl acetate/hexanes to 50% ethyl acetate/hexanes to provide the desired product, 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-ethyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one 3A-1 (11 mg): MS 467.4 (M+1); 1H NMR (400 MHz, CD2Cl2): δ 7.57–7.43 (m, 4H), 7.44–7.40 (m, 2H), 7.34–7.30 (m, 2H), 5.00–4.80 (br m, 2H), 2.87 (q, J=7.1 Hz, 2H), 1.37 (t, J=7.1 Hz, 3H).

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-ethyl-2H-pyrazolo[4,3-d]pyrimidin-7-ol | 0.039 mmol, 15 mg | ClC1=CC=C(C=C1)C=1N(N=C2C1N=C(N=C2O)CC)C2=C(C=CC=C2)Cl | C19H14Cl2N4O
reactant | Cs2CO3 | 0.16 mmol, 52 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CF3CH2I | 0.4 mmol, 39 μl | C(F)(F)(F)CI | C2H2F3I
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-ethyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one | 11 mg | ClC1=CC=C(C=C1)C=1N(N=C2C1N=C(N(C2=O)CC(F)(F)F)CC)C2=C(C=CC=C2)Cl | C21H15Cl2F3N4O
